US07034039B2
To a solution of 6-bromo-3-hydroxymethyl-2-isobutyl-4-phenyl-1(2H)-isoquinolinone (8.7 g, 22.5 mmol) and pyridine (5 drops) in tetrahydrofuran (30 mL) and toluene (30 mL) was added thionyl chloride (3.4 mL, 47.3 mmol). The obtained mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated, poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 6-bromo-3-chloromethyl-2-isobutyl-4-phenyl-1(2H)-isoquinolinone (8.2 g, 90%) as crystals.

reactant | 6-bromo-3-hydroxymethyl-2-isobutyl-4-phenyl-1(2H)-isoquinolinone | 22.5 mmol, 8.7 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CO)C1=CC=CC=C1 | C20H20BrNO2
reactant | thionyl chloride | 47.3 mmol, 3.4 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 5 drops | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-3-chloromethyl-2-isobutyl-4-phenyl-1(2H)-isoquinolinone | 8.2 g, 90% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CCl)C1=CC=CC=C1 | C20H19BrClNO
